US09290451B2
b) 6-Cyclohexyl-pyridine-2-carboxylic acid
To a solution of 6-cyclohexenyl-pyridine-2-carboxylic acid (0.8 g, 3.94 mmol) in ethanol (50 mL) was added 10% palladium on carbon (20%, 0.16 g) under an atmosphere of nitrogen. The suspension was degassed under vacuum and exchanged with hydrogen several times. The mixture was stirred under hydrogen balloon at ambient temperature overnight. The reaction mixture was filtered through a pad of celite, the pad was washed with ethanol and the combined filtrates were concentrated to dryness. The crude title compound (0.62 g, green oil) was used for the next reaction step without further purification; MS (EI): m/e 206.2 [M+H]+

reactant | 6-cyclohexenyl-pyridine-2-carboxylic acid | 3.94 mmol, 0.8 g | C1(=CCCCC1)C1=CC=CC(=N1)C(=O)O | C12H13NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.16 g | [Pd] | Pd
product | 6-Cyclohexyl-pyridine-2-carboxylic acid | C1(CCCCC1)C1=CC=CC(=N1)C(=O)O | C12H15NO2
